US04154931
passing carbonyl sulfide gas into a solution of tetramethylene diamine dissolved in a mixture of water and ethanol in equal proportions by weight at a temperature of from about 30° C. to about 45° C. to form N-(4-aminobutyl)thiocarbamic acid or zwitterion thereof; and

reactant | carbonyl sulfide | C(=O)=S | COS
reactant | tetramethylene diamine | NCCCCN | C4H12N2
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | N-(4-aminobutyl)thiocarbamic acid | NCCCCNC(O)=S | C5H12N2OS
